### PR TITLE
[Merged by Bors] - feat: port Data.Set.Finite

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Finite.lean [hunk 1]
```diff
@@ -789,21 +789,21 @@ theorem Finite.unionₛ {s : Set (Set α)} (hs : s.Finite) (H : ∀ t ∈ s, Set
...
     cases hs
-    haveI := fintype_bUnion s t fun i hi => (ht i hi).Fintype
+    haveI := fintypeBUnionᵢ s t fun i hi => (ht i hi).fintype
     apply to_finite
-#align set.finite.bUnion Set.Finite.bUnion
+#align set.finite.bUnion Set.Finite.bunionᵢ
 
-/-- Dependent version of `finite.bUnion`. -/
-theorem Finite.bUnion' {ι} {s : Set ι} (hs : s.Finite) {t : ∀ i ∈ s, Set α}
+/-- Dependent version of `finite.bunionᵢ`. -/
```
Comment (jcommelin) [inline Mathlib/Data/Set/Finite.lean:800]:
```suggestion
/-- Dependent version of `Finite.bunionᵢ`. -/
```
Even better: we're preparing a python script that will make these fixes for you. So I suggest that you focus on the Lean errors/name changes, and ignore comments and docstrings for now.

Comment (ericrbg) [reply Mathlib/Data/Set/Finite.lean]: oof I should've read this before I did it all :(

File: Mathlib/Data/Set/Finite.lean [hunk 2]
```diff
@@ -0,0 +1,1568 @@
...
+theorem not_infinite {s : Set α} : ¬s.Infinite ↔ s.Finite :=
+  not_not
+#align set.not_infinite Set.not_infinite
+
+/-- See also `finite_or_infinite`, `fintype_or_infinite`. -/
+protected theorem finite_or_infinite (s : Set α) : s.Finite ∨ s.Infinite :=
+  em _
+#align set.finite_or_infinite Set.finite_or_infinite
+
+/-! ### Basic properties of `set.finite.to_finset` -/
```
Comment (jcommelin) [inline Mathlib/Data/Set/Finite.lean:146]:
```suggestion
/-! ### Basic properties of `Set.Finite.toFinset` -/
```

File: Mathlib/Data/Set/Finite.lean [hunk 3]
```diff
@@ -0,0 +1,1568 @@
...
+  simp
+#align set.finite.to_finset_compl Set.Finite.toFinset_compl
+
+@[simp]
+protected theorem toFinset_empty (h : (∅ : Set α).Finite) : h.toFinset = ∅ := by
+  ext
+  simp
+#align set.finite.to_finset_empty Set.Finite.toFinset_empty
+
+-- Note: Not `simp` because `Set.Finite.toFinset_set_of` already proves it
```
Comment (jcommelin) [inline Mathlib/Data/Set/Finite.lean:266]:
```suggestion
-- Note: Not `simp` because `Set.Finite.toFinset_setOf` already proves it
```

File: Mathlib/Data/Set/Finite.lean [hunk 4]
```diff
@@ -416,32 +404,32 @@ instance fintypePure : ∀ a : α, Fintype (pure a : Set α) :=
...
 def fintypeInsertOfMem {a : α} (s : Set α) [Fintype s] (h : a ∈ s) : Fintype (insert a s : Set α) :=
   Fintype.ofFinset s.toFinset <| by simp [h]
 #align set.fintype_insert_of_mem Set.fintypeInsertOfMem
 
-/-- The `set.fintype_insert` instance requires decidable equality, but when `a ∈ s`
-is decidable for this particular `a` we can still get a `fintype` instance by using
-`set.fintype_insert_of_not_mem` or `set.fintype_insert_of_mem`.
+/-- The `set.fintypeInsert` instance requires decidable equality, but when `a ∈ s`
+is decidable for this particular `a` we can still get a `Fintype` instance by using
+`set.fintypeInsertOfNotMem` or `set.fintypeInsertOfMem`.
```
Comment (jcommelin) [inline Mathlib/Data/Set/Finite.lean:428]:
```suggestion
/-- The `Set.fintypeInsert` instance requires decidable equality, but when `a ∈ s`
is decidable for this particular `a` we can still get a `Fintype` instance by using
`Set.fintypeInsertOfNotMem` or `Set.fintypeInsertOfMem`.
```

File: Mathlib/Data/Set/Finite.lean [hunk 5]
```diff
@@ -416,32 +404,32 @@ instance fintypePure : ∀ a : α, Fintype (pure a : Set α) :=
...
 
-This instance pre-dates `set.fintype_insert`, and it is less efficient.
+This instance pre-dates `set.fintypeInsert`, and it is less efficient.
```
Comment (jcommelin) [inline Mathlib/Data/Set/Finite.lean:430]:
```suggestion
This instance pre-dates `Set.fintypeInsert`, and it is less efficient.
```

File: Mathlib/Data/Set/Finite.lean [hunk 6]
```diff
@@ -416,32 +404,32 @@ instance fintypePure : ∀ a : α, Fintype (pure a : Set α) :=
...
 When `decidable_mem_of_fintype` is made a local instance, then this instance would
-override `set.fintype_insert` if not for the fact that its priority has been
+override `set.fintypeInsert` if not for the fact that its priority has been
```
Comment (jcommelin) [inline Mathlib/Data/Set/Finite.lean:432]:
```suggestion
override `Set.fintypeInsert` if not for the fact that its priority has been
```

**Comment by ChrisHughes24** [comment]
bors merge
